US08476434B2
Synthesis of 3-(2-chloroethoxy)-5-(trifluoromethyl)benzenamine
To a mixture of 3-nitro-5-(trifluoromethyl)phenol (2.10 g, 10.1 mmol) and cesium carbonate (4.00 g, 12.2 mmol) in acetonenitrile (50 ml) was added 2-chloroethyl p-toluenesulfonate (2.9 g, 12 mmol) slowly. The resulting mixture was stirred at RT for 5 hr, poured into water (100 ml) and then extracted with EtOAc (3×80 ml). The combined organic layer was washed with brine (100 ml) and dried over Na2SO4. Solvent was removed under vacuum and the residue was purified by flash column chromatography on the silica gel (hexane/EtOAc=5 to 25%) to afford the desired compound.

reactant | 3-nitro-5-(trifluoromethyl)phenol | 10.1 mmol, 2.10 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)O | C7H4F3NO3
reactant | cesium carbonate | 12.2 mmol, 4.00 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-chloroethyl p-toluenesulfonate | 12 mmol, 2.9 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCl)C | C9H11ClO3S
solvent | water | 100 ml | O | H2O
product | 3-(2-chloroethoxy)-5-(trifluoromethyl)benzenamine | ClCCOC=1C=C(C=C(C1)C(F)(F)F)N | C9H9ClF3NO
